US05371099
A mixture of 11.10 g (50 mmol) of N-(4-nitrophenyl)-3-oxobutanamide and 4.26 g (60 mmol) of pyrrolidine in 125 ml of benzene was refluxed for one hour using a Dean-Stark trap to separate water. The reaction was cooled to give 12.89 g (94% yield) of N-(4-nitrophenyl)-3-pyrrolidyl-2-butenamide as a yellow solid.

reactant | N-(4-nitrophenyl)-3-oxobutanamide | 50 mmol, 11.10 g | [N+](=O)([O-])C1=CC=C(C=C1)NC(CC(C)=O)=O | C10H10N2O4
reactant | pyrrolidine | 60 mmol, 4.26 g | N1CCCC1 | C4H9N
solvent | benzene | 125 ml | C1=CC=CC=C1 | C6H6
product | N-(4-nitrophenyl)-3-pyrrolidyl-2-butenamide | 12.89 g, 94% yield | [N+](=O)([O-])C1=CC=C(C=C1)NC(C=C(C)N1CCCC1)=O | C14H17N3O3
